US08476297B2
Step 1: 4-Nitrophenyl 2,2,2-trifluoroethylcarbamate
To a solution of 4-nitrophenyl chloroformate (4578 mg, 22715 μmol) and DIEA (2638 μL, 15143 μmol) in DCM (100 mL) at 0° C. was added 2,2,2-trifluoro-ethylamine (1500 μL, 15143 μmol). The resulting mixture was then stirred at 0° C. for 4 h and at RT for overnight. Then, the mixture was concentrated and a white precipitation was observed. The mixture was then filtered to give the title compound as a white solid, which was used in the next step without purification requirement.

reactant | 4-nitrophenyl chloroformate | 22715 μmol, 4578 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIEA | 15143 μmol, 2638 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trifluoro-ethylamine | 15143 μmol, 1500 μL | FC(CN)(F)F | C2H4F3N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrophenyl 2,2,2-trifluoroethylcarbamate | FC(CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C9H7F3N2O4
